US06861438B2
N-(4-chlorobenzyl)-2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
Ethyl 2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (250 mg, 0.94 mmol) was suspended in 4-chlorobenzylamine (2.0 mL, 16.4 mmol). The mixture was stirred at 80° C. for 16 hours before it was quenched with a mixture of 1.0 M hydrochloric acid (25 mL) and ice (5 g). The mixture was stirred at room temperature for 1 hr. The solid ppt. was collected by vacuum filtration and washed thoroughly with 50 mL of water. Drying in vacuo left a white solid (0.26 g).

reactant | Ethyl 2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 0.94 mmol, 250 mg | OCC1=CC=2N(C=C(C(C2S1)=O)C(=O)OCC)C | C12H13NO4S
reactant | 4-chlorobenzylamine | 16.4 mmol, 2.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-chlorobenzyl)-2-(hydroxymethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C=C(S3)CO)=O)C=C1 | C17H15ClN2O3S
